US07807709B2
E. (3R,4S)-3-[(Cyclopropyl-phenylacetyl-amino)-methyl]-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of phenylacetic acid (1.45 g, 10.53 mmol) and (3R,4S)-3-cyclopropylaminomethyl-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester (3.2 g, 7.022 mmol) in CH2Cl2 (10 mL), are added triethylamine (1.47 mL, 10.53 mmol) and 1-hydroxy-7-azabenzotriazol hydrate (1.46 g, 10.53 mmol) followed 15 min later by N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride (3.06 g, 15.78 mmol). The resulting mixture is stirred for 2 days at RT, then diluted with CH2Cl2 and poured into an aqueous 2M HCl solution. The layers are separated and the aqueous one extracted twice with CH2Cl2. The combined organic extracts are neutralized with an aqueous saturated solution of NaHCO3, dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography on silica gel (eluent: hexane/AcOEt 2:1). TLC, Rf (hexane/AcOEt 1:1)=0.42. MS (LC-MS): 574.2 [M+H]+; tR (HPLC, C18 column, 20-100% CH3CN/H2O/6 min, 100% CH3CN/1.5 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 6.49 min.

reactant | phenylacetic acid | 10.53 mmol, 1.45 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | (3R,4S)-3-cyclopropylaminomethyl-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.022 mmol, 3.2 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)OCC[Si](C)(C)C)C(C)C)CNC1CC1 | C23H45N3O4Si
reactant | triethylamine | 10.53 mmol, 1.47 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxy-7-azabenzotriazol hydrate | 10.53 mmol, 1.46 g | O.ON1N=NC2=C1N=CC=C2
reactant | N-(3-dimethylaminopropyl)-N′-ethyl-carbodiimide hydrochloride | 15.78 mmol, 3.06 g | Cl.CN(CCCN=C=NCC)C
reactant | HCl | 2M | Cl | ClH
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3R,4S)-3-[(Cyclopropyl-phenylacetyl-amino)-methyl]-4-{[isopropyl-(2-trimethylsilanyl-ethoxycarbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(=O)OCC[Si](C)(C)C)C(C)C)CN(C(CC1=CC=CC=C1)=O)C1CC1 | C31H51N3O5Si
